US05281747
A solution of 4.0 g of ethyl P-(3-benzyloxycarbonylamino-1-hydroxy-propyl)-P-methyl-phosphinate in 50 ml of 5.0M aqueous hydrochloric acid is heated to reflux for 20 hours under an inert gas atmosphere. Then, the reaction mixture is cooled to room temperature and washed twice with 100 ml each of dichloromethane and once with diethyl ether. The aqueous layer is evaporated to dryness at 50° under reduced pressure. The oily residue is then co-evaporated 5 times with 50 ml each of water and of absolute ethanol. The remaining white solid is dried under reduced pressure at 80° and then re-crystallised to afford P-(3-amino-1-hydroxy-propyl)-P-methyl-phosphinic acid hydrochloride of m.p. 115°-116.5°. This can be converted into the free compound by dissolving in ethanol and treating with propylene oxide yielding, after filtration and drying, P-(3-amino-1-hydroxy-propyl)-P-methyl-phosphinic acid of m.p. 125°-126.5°.

reactant | ethyl P-(3-benzyloxycarbonylamino-1-hydroxy-propyl)-P-methyl-phosphinate | 4.0 g | C(C1=CC=CC=C1)OC(=O)NCCC(O)P(OCC)(=O)C | C14H22NO5P
reactant | hydrochloric acid | 5.0M, 50 ml | Cl | ClH
product | P-(3-amino-1-hydroxy-propyl)-P-methyl-phosphinic acid hydrochloride | Cl.NCCC(O)P(O)(=O)C | InChI=1S/C4H12NO3P.ClH/c1-9(7,8)4(6)2-3-5;/h4,6H,2-3,5H2,1H3,(H,7,8);1H
